US04792567
The solution of N-(cyclohexylmethyl)phenylmethanimine in chloroform was diluted to 100 mL with fresh chloroform. This solution was stirred and cooled to -5° C. Ethyl chloroformate (11.0 mL, 0.12 mole) was added, and the mixture was stirred for ten minutes. Trimethyl phosphite (13.0 mL, 0.11 mole) was added, and the cold mixture was stirred for an additional ten minutes. The mixture was allowed to warm to room temperature and stir for 30 minutes. This mixture was poured slowly into an aqueous solution of potassium carbonate. The resultant mixture was extracted with chloroform. The extract was washed with an aqueous solution saturated with sodium chloride and then was dried over anhydrous magnesium sulfate. The dried solution was filtered, and the filtrate was evaporated under reduced pressure, leaving an oil. This oil was purified by column chromatography on silica gel to yield ethyl N-cyclohexylmethyl-N-[phenyl(dimethoxyphosphinyl)methyl]carbamate as an oil.

reactant | N-(cyclohexylmethyl)phenylmethanimine | C1(CCCCC1)CN=CC1=CC=CC=C1 | C14H19N
reactant | Ethyl chloroformate | 0.12 mole, 11.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | Trimethyl phosphite | 0.11 mole, 13.0 mL | P(OC)(OC)OC | C3H9O3P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl N-cyclohexylmethyl-N-[phenyl(dimethoxyphosphinyl)methyl]carbamate | C1(CCCCC1)CN(C(OCC)=O)C(P(=O)(OC)OC)C1=CC=CC=C1 | C19H30NO5P
